US04728653
n-Butyllithium (13.75 cm3 of a 1.6M solution in n-hexane) was added dropwise to a stirred solution of 6-bromo-2-methoxy-8-methylquinoline (5.04 g) in tetrahydrofuran (THF) (50 cm3) at -70° under nitrogen. After 15 minutes the fine suspension was transferred via a cannula to a stirred solution of diphenylphosphorylazide (5.5 g) in THF (50 cm3) at -70° under nitrogen. The dark solution was stirred at -70° for 2 hours, warmed to -20° over 1 hour and then re-cooled to -70°. A solution of sodium bis(2-methoxyethoxy)aluminium hydride (23.5 cm3 of a 3.4M solution in toluene) was slowly added and the solution was warmed to room temperature over 1.5 hours. The mixture was cooled to 0°, ice (100 g) was cautiously added, the resulting suspension was filtered, and the solid was washed with ethyl acetate. The aqueous filtrate was further extracted with ethyl acetate (2×100 cm3) and the combined and dried (MgSO4) organic extracts were evaporated in vacuo to give a residue which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]). Elution with toluene, followed by combination and evaporation of appropriate fractions, gave a solid which was recrystallised from hexane to afford 6-amino-2-methoxy-8-methylquinoline, m.p. 115°-117° (1.07 g).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 6-bromo-2-methoxy-8-methylquinoline | 5.04 g | BrC=1C=C2C=CC(=NC2=C(C1)C)OC | C11H10BrNO
reactant | diphenylphosphorylazide | 5.5 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium bis(2-methoxyethoxy)aluminium hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
solvent | THF | 50 cm3 | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-amino-2-methoxy-8-methylquinoline | NC=1C=C2C=CC(=NC2=C(C1)C)OC | C11H12N2O
